US06277849B1
12.6 9 of (2S,3S)-2-(tert-butoxycarbonyl-amino)-3-methyl-valeric acid N-{2-[3-methoxy-4-(naphthalen-1-ylmethoxy)-phenyl]-ethyl}-amide are dissolved in 100 ml of dioxane. 200 ml of a 4M solution of hydrogen chloride in dioxane are added thereto. The reaction mixture is stirred at room temperature for 24 hours and then 300 ml of water are added thereto. Extraction is carried out twice using 300 ml of ethyl acetate each time. The organic phases are washed twice using 150 ml of 2N hydrochloric acid each time. The combined aqueous extracts are adjusted to a pH value of >8 by the addition of solid potassium carbonate. Extraction is carried out twice using 400 ml of tert-butyl methyl ether each time. The organic phases are combined, dried over potassium carbonate and concentrated, yielding (2S,3S)-2-amino-3-methyl-valeric acid N-{2-[3-methoxy-4-(naphthalen-1-ylmethoxy)-phenyl]-ethyl}-amide in the form of a yellow oil.

reactant | (2S,3S)-2-(tert-butoxycarbonyl-amino)-3-methyl-valeric acid N-{2-[3-methoxy-4-(naphthalen-1-ylmethoxy)-phenyl]-ethyl}-amide | COC=1C=C(C=CC1OCC1=CC=CC2=CC=CC=C12)CCNC([C@H]([C@H](CC)C)NC(=O)OC(C)(C)C)=O | C31H40N2O5
reactant | hydrogen chloride | Cl | ClH
reactant | water | 300 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | (2S,3S)-2-amino-3-methyl-valeric acid N-{2-[3-methoxy-4-(naphthalen-1-ylmethoxy)-phenyl]-ethyl}-amide | COC=1C=C(C=CC1OCC1=CC=CC2=CC=CC=C12)CCNC([C@H]([C@H](CC)C)N)=O | C26H32N2O3
